US06716851B2
4-(2,5-Dimethyl-4-hydroxyanilino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 2,5-dimethyl-4-hydroxyaniline (40 mg, 0.288 mmol) similar to Example 190 and was isolated as a solid. 1H NMR (CDCl3): 9.51 (brs, 1H), 8.72 (d, J=8.4 Hz, 1H), 8.63 (d, J=3.6 Hz, 1H), 7.45 (dd, J=7.5, 3.5 Hz, 1H), 7.33 (s, 1H), 7.00 (s, 1H), 6.74 (s, 1H), 6.45 (brs, 1H), 2.25 (s, 3H), 2.16 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2,5-dimethyl-4-hydroxyaniline | 0.288 mmol, 40 mg | CC1=C(N)C=C(C(=C1)O)C | C8H11NO
product | 4-(2,5-Dimethyl-4-hydroxyanilino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | CC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C(=C1)O)C | C18H15F3N4O
